US05719297
A 3.66 g amount of methyl(4R)-4-[(1R,7aR)-octahydro-4-trimethylsilyloxy-7a-methyl-1H-inden-1-yl]-2-pentenoate was placed in a 500 ml eggplant-shaped flask, and 100 ml of hexane and 40 ml of toluene were then added to dissolve it. The solution was cooled to -95° C., then 12.2 ml of diisobutylaluminum hydride was slowly added and the solution stirred at the same temperature for 1 hour. Next, a further 24 ml of diisobutylaluminum hydride was added, followed by stirring for 2 hours. The consumption of the material was confirmed by thin layer chromatography, then the excess reducing agent was broken down by methanol and a saturated aqueous solution of sodium sulfate and then 300 ml of ethyl acetate and 80 ml of a saturated aqueous solution of ammonia chloride were added for separation. Extraction was performed from the aqueous layer by 100 ml of ethyl acetate, then the organic layer was washed with saturated saline and was dried by anhydrous magnesium sulfate. The desiccant was filtered out, then the filtrate was concentrated under reduced pressure to obtain a crude product in an amount of 3.61 g. This was purified by a silica column (hexane/ethyl acetate=19/1 to 4/1) to obtain (4R)-4-[(1R, 7aR)-octahydro-4-trimethylsilyloxy-7a-methyl-1H-inden-1-y l]-2-penten-1-ol in an amount of 3.31 g (98%).

reactant | methyl(4R)-4-[(1R,7aR)-octahydro-4-trimethylsilyloxy-7a-methyl-1H-inden-1-yl]-2-pentenoate | C[Si](OC1C2CC[C@@H]([C@]2(CCC1)C)[C@@H](C=CC(=O)OC)C)(C)C | C19H34O3Si
reactant | hexane | 100 ml | CCCCCC | C6H14
reactant | diisobutylaluminum hydride | 12.2 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminum hydride | 24 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | (4R)-4-[(1R, 7aR)-octahydro-4-trimethylsilyloxy-7a-methyl-1H-inden-1-y l]-2-penten-1-ol | C[Si](OC1C2CC[C@@H]([C@]2(CCC1)C)[C@@H](C=CCO)C)(C)C | C18H34O2Si
